US07132425B2
A mixture of 2-(3-chloro-4-methanesulfonyl-phenyl)-3-cyclopentyl-N-[5-(N-hydroxycarbamimidoyl)-pyrazin-2-yl]-propionamide (197.0 mg, 0.423 mmol) and acetic anhydride (970 μL, 10.281 mmol) was placed into a one-dram glass vial. The vial was tightly sealed, and the reaction was stirred at 120° C. for 3.5 h. The reaction was diluted with ethyl acetate (75 mL) and washed with a saturated aqueous sodium bicarbonate solution (50 mL) and a saturated aqueous sodium chloride solution (50 mL). The combined aqueous layers were back-extracted with ethyl acetate (50 mL). The resulting combined organic layers were dried over sodium sulfate, filtered, and concentrated in vacuo. Biotage chromatography (FLASH 40L, Silica, 1/1 ethyl acetate/hexanes) afforded 2-(3-chloro-4-methanesulfonyl-phenyl)-3-cyclopentyl-N-[5-(5-methyl-[1,2,4]oxadiazol-3-yl)-pyrazin-2-yl]-propionamide (43.8 mg, 21%) as a white foam; mp 101.9–104.8° C. (foam to gel); (ES)+-HRMS m/e calcd for C22H24ClN5O4S (M+H)+ 490.1311, found 490.1315.

reactant | 2-(3-chloro-4-methanesulfonyl-phenyl)-3-cyclopentyl-N-[5-(N-hydroxycarbamimidoyl)-pyrazin-2-yl]-propionamide | 0.423 mmol, 197.0 mg | ClC=1C=C(C=CC1S(=O)(=O)C)C(C(=O)NC1=NC=C(N=C1)C(NO)=N)CC1CCCC1 | C20H24ClN5O4S
reactant | acetic anhydride | 10.281 mmol, 970 μL | C(C)(=O)OC(C)=O | C4H6O3
solvent | ethyl acetate | 75 mL | C(C)(=O)OCC | C4H8O2
product | 2-(3-chloro-4-methanesulfonyl-phenyl)-3-cyclopentyl-N-[5-(5-methyl-[1,2,4]oxadiazol-3-yl)-pyrazin-2-yl]-propionamide | 43.8 mg, 21% | ClC=1C=C(C=CC1S(=O)(=O)C)C(C(=O)NC1=NC=C(N=C1)C1=NOC(=N1)C)CC1CCCC1 | C22H24ClN5O4S
